US07727988B2
5-(2,6-difluoro-3-pyridinyl)-1-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-2,4(1H,3H)-pyrimidinedione dihydrochloride (E34)
5-(2,6-difluoro-3-pyridinyl)-1-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-2,4(1H,3H)-pyrimidinedione was dissolved in dioxane and then treated with a solution of 4N HCl in dioxane (2 eq) to give the title compound as a white solid. (12.7 mg)

reactant | 5-(2,6-difluoro-3-pyridinyl)-1-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-2,4(1H,3H)-pyrimidinedione | FC1=NC(=CC=C1C=1C(NC(N(C1)CCCN1C[C@]2(C[C@H]2C1)C1=CC=C(C=C1)C(F)(F)F)=O)=O)F | C24H21F5N4O2
reactant | HCl | 4N | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | dioxane | 2 eq | O1CCOCC1 | C4H8O2
product | 5-(2,6-difluoro-3-pyridinyl)-1-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-2,4(1H,3H)-pyrimidinedione dihydrochloride | Cl.Cl.FC1=NC(=CC=C1C=1C(NC(N(C1)CCCN1C[C@]2(C[C@H]2C1)C1=CC=C(C=C1)C(F)(F)F)=O)=O)F | InChI=1S/C24H21F5N4O2.2ClH/c25-19-7-6-17(20(26)30-19)18-12-33(22(35)31-21(18)34)9-1-8-32-11-16-10-23(16,13-32)14-2-4-15(5-3-14)24(27,28)29;;/h2-7,12,16H,1,8-11,13H2,(H,31,34,35);2*1H/t16-,23+;;/m0../s1
